US07700638B2
A mixture of aniline (1.12 ml, 12.3 mmol) and 2,3-difluoro-1-nitro-5-trifluoromethylbenzene (2.8 g, 12.3 mmol) was heated at 110° C. for 24 h. Dichloromethane was added and the resulting precipitate filtered off. The filtrate was concentrated under reduced pressure then redissolved in ethyl acetate. 10% Palladium on carbon (0.5 g, Degussa) was added and the resulting suspension hydrogenated at 5 bar for 1 h. The reaction mixture was filtered through celite, washed with ethyl acetate and, the filtrate concentrated under reduced pressure. Formic acid (10 mL) was added and the mixture heated at 110° C. for 24 h. Concentration under reduced pressure gave 7-fluoro-1-phenyl-5-trifluoromethylbenzimidazole as a purple solid (3.0 g, 87%) m/z, 281.0 (M+H)+.

reactant | aniline | 12.3 mmol, 1.12 ml | NC1=CC=CC=C1 | C6H7N
reactant | 2,3-difluoro-1-nitro-5-trifluoromethylbenzene | 12.3 mmol, 2.8 g | FC1=C(C=C(C=C1F)C(F)(F)F)[N+](=O)[O-] | C7H2F5NO2
reactant | Dichloromethane | ClCCl | CH2Cl2
product | 7-fluoro-1-phenyl-5-trifluoromethylbenzimidazole | 3.0 g, 87% | FC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F4N2
